US07728025B2
(Step 4) Production of 1-(2-(5-amino-2-(4-fluoro-phenoxy)-phenyl)-piperidin-1-yl)-ethanone
0.3 ml of acetic anhydride and 100 mg of 10% palladium-carbon catalyst were added to an ethanol (20 ml) solution of 300 mg of t-butyl (4-(4-fluoro-phenoxy)-3-pyridin-2-yl-phenyl)-carbamate, and the reaction liquid was stirred overnight in a hydrogen atmosphere. The catalyst was removed through filtration through Celite, and the filtrate was distilled under reduced pressure to obtain a crude product. The resulting crude product was dissolved in 5 ml of 4 N hydrochloric acid/1,4-dioxane solution, and the reaction liquid was stirred at room temperature for 1 hour. Aqueous saturated sodium bicarbonate was added to the reaction liquid, and extracted with ethyl acetate. The organic layer was washed with saturated saline, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=1/1 to ethyl acetate) to obtain the entitled compound as a pale yellow solid.

reactant | acetic anhydride | 0.3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | t-butyl (4-(4-fluoro-phenoxy)-3-pyridin-2-yl-phenyl)-carbamate | 300 mg | FC1=CC=C(OC2=C(C=C(C=C2)NC(OC(C)(C)C)=O)C2=NC=CC=C2)C=C1 | C22H21FN2O3
reactant | hydrogen | [H][H] | H2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | palladium-carbon | 100 mg | [C].[Pd]
solvent | hydrochloric acid 1,4-dioxane | 4 N, 5 ml | Cl.O1CCOCC1
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-(2-(5-amino-2-(4-fluoro-phenoxy)-phenyl)-piperidin-1-yl)-ethanone | NC=1C=CC(=C(C1)C1N(CCCC1)C(C)=O)OC1=CC=C(C=C1)F | C19H21FN2O2
